US08003783B2
STX475 3-Hydroxy-13-methyl-16-thiophen-2-ylmethylene-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one (CAB02073):
Potassium hydroxide (2.0 g) was added to a suspension of estrone (1.352 g, 5.0 mmol) and thiophene-2-carboxaldehyde (561 mg, 5.0 mmol) in ethanol (40 mL). The resulting dark brown solution was stirred for 4 hours at room temperature, then acetic acid (5 mL) and water (5 ml) were added, the product started to precipitate after a few minutes and was filtered off, washed with water (20 mL), ethanol (10 mL) and diethyl ether (10 mL) and dried under high vacuum. Yield: 1.614 g (89%) yellow solid. 1H-NMR (CDCl3, 400 MHz) δ: 0.98 (s, 3H, —CH3), 1.44-1.78 (m, 5H), 2.02-2.14 (m, 2H), 2.26-2.46 (m, 3H), 2.84-3.02 (m, 3H), 4.98 (s, 1H, —OH), 6.62 (d, J=2.7 Hz, 1H), 6.67 (dd, J=8.6, 2.7 Hz, 1H), 7.14 (dd, J=5.1, 3.5 Hz, 1H), 7.17 (d, J=8.6 Hz, 1H), 7.35 (d, J=3.5 Hz, 1H), 7.53 (d, J=5.1 Hz, 1H), 7.67 (s, 1H). LRMS (FAB+): 365.2 (100, [M+H]+).

reactant | Potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | estrone | 5.0 mmol, 1.352 g | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
reactant | thiophene-2-carboxaldehyde | 5.0 mmol, 561 mg | S1C(=CC=C1)C=O | C5H4OS
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 3-Hydroxy-13-methyl-16-thiophen-2-ylmethylene-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one | OC=1C=CC=2C3CCC4(C(C(CC4C3CCC2C1)=CC=1SC=CC1)=O)C | C23H24O2S
